US08349861B2
Preparation of 2,3-dimethyl-2H-indazol-6-amine (V)
2,3-dimethyl-6-nitro-2H-indazole (0.48 g, 2.5 mmol, 1 equiv) was dissolved in 2-methoxyethylether (4.3 ml) with heating then cooled down to 0° C. Tin chloride (1.6 g, 7.1 mmol, 2.8 equiv) was added under nitrogen. Concentrated HCl (3.2 ml) was added dropwise keeping the temperature below 5° C. When all the HCl was added, the reaction was allowed to warm up to room temperature and stirred for 45 min. Ether (14 ml) was added and a precipitate was collected too yield the desired product as an hydrochloride salt (0.35 g, 86.8%).

reactant | 2,3-dimethyl-6-nitro-2H-indazole | 2.5 mmol, 0.48 g, 1 equiv | CN1N=C2C=C(C=CC2=C1C)[N+](=O)[O-] | C9H9N3O2
reactant | Tin chloride | 7.1 mmol, 1.6 g, 2.8 equiv | [Sn](Cl)(Cl)(Cl)Cl
reactant | HCl | 3.2 ml | Cl | ClH
reactant | Ether | 14 ml | CCOCC | C4H10O
solvent | 2-methoxyethylether | 4.3 ml | COCCOCCOC | C6H14O3
product | 2,3-dimethyl-2H-indazol-6-amine | CN1N=C2C=C(C=CC2=C1C)N | C9H11N3
